US04835175
53.6 g of 4-(N-tert-butylaminoacetyl)-7-hydroxyindole-2-carboxylic acid ethyl ester hydrochloride is combined with 59.3 g of potassium carbonate, 63.6 ml of benzyl bromide, and 1000 ml of acetone and heated under reflux for 6 hours. The mixture is then concentrated under vacuum and the residue combined with ethyl acetate and saturated sodium bicarbonate solution. The organic phase is washed three times with sodium bicarbonate solution and once with water, dried over calcium sulfate, and concentrated. The residue is recrystallized twice from ethyl acetate/hexane, thus obtaining 47 g of 7-benzyloxy-4-(N-benzyl-N-tert-butylaminoacetyl)indole-2-carboxylic acid ethyl ester, mp 155°-157° C.

reactant | 4-(N-tert-butylaminoacetyl)-7-hydroxyindole-2-carboxylic acid ethyl ester hydrochloride | 53.6 g | Cl.C(C)OC(=O)C=1NC2=C(C=CC(=C2C1)C(CNC(C)(C)C)=O)O
reactant | potassium carbonate | 59.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 63.6 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | acetone | 1000 ml | CC(=O)C | C3H6O
product | 7-benzyloxy-4-(N-benzyl-N-tert-butylaminoacetyl)indole-2-carboxylic acid ethyl ester | 47 g | C(C)OC(=O)C=1NC2=C(C=CC(=C2C1)C(CN(C(C)(C)C)CC1=CC=CC=C1)=O)OCC1=CC=CC=C1 | C31H34N2O4
